US04547494
30 g of (Z)-2-(2-tritylaminothiazol-4-yl)-2-[(2-pyrrolidon-3-yl)oxyimino]acetic acid and 60 ml of methanol are added to 100 ml of dioxane containing 0.5 g of methyl L-phenylalaninate, and the mixture is heated at 50° C. to dissolve said acid therein. 700 ml of dioxane are added to the solution, and the mixture is stirred at room temperature for 5 hours. Crystalline precipitates are collected by filtration (the filtrate is hereinafter referred to as "Filtrate I"), and 14.3 g of the crude product thus obtained are dissolved in 24 ml of methanol. 280 ml of dioxane are added to the methanol solution. The mixture is stirred at room temperature for 4 hours, and crystalline precipitates are collected by filtration (the filtrate is hereinafter referred to as "Filtrate II"). 12.2 g of (Z)-2-(2-tritylaminothiazol-4-yl)-2-[((3S)-2-pyrrolidon-3-yl)oxyimino]acetic acid methyl L-phenylalaninate salt are obtained.

reactant | (Z)-2-(2-tritylaminothiazol-4-yl)-2-[(2-pyrrolidon-3-yl)oxyimino]acetic acid | 30 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)O)=N/OC1C(NCC1)=O | C28H24N4O4S
reactant | dioxane | 100 ml, 0.5 g | O1CCOCC1 | C4H8O2
reactant | methyl L-phenylalaninate | N[C@@H](CC1=CC=CC=C1)C(=O)OC | C10H13NO2
reactant | dioxane | 700 ml | O1CCOCC1 | C4H8O2
reactant | dioxane | 280 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 24 ml | CO | CH4O
solvent | methanol | 60 ml | CO | CH4O
product | (Z)-2-(2-tritylaminothiazol-4-yl)-2-[((3S)-2-pyrrolidon-3-yl)oxyimino]acetic acid methyl L-phenylalaninate salt | 12.2 g | CN[C@@H](CC1=CC=CC=C1)C(=O)O.C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)O)=N/O[C@@H]1C(NCC1)=O | InChI=1S/C28H24N4O4S.C10H13NO2/c33-25-23(16-17-29-25)36-32-24(26(34)35)22-18-37-27(30-22)31-28(19-10-4-1-5-11-19,20-12-6-2-7-13-20)21-14-8-3-9-15-21;1-11-9(10(12)13)7-8-5-3-2-4-6-8/h1-15,18,23H,16-17H2,(H,29,33)(H,30,31)(H,34,35);2-6,9,11H,7H2,1H3,(H,12,13)/b32-24-;/t23-;9-/m00/s1
